US05051422
4-(2,6-Dichlorophenyl)-1-[(3,4-dimethoxyphenyl)methyl]-N-(2-propenyl)-2-piperazinecarboxamide
In a manner similar to Preparation 23, react N-(2,6-dichlorophenyl)-N'-[(3,4-dimethoxyphenyl)methyl]-1,2-ethanediamine with 2,3-dibromo-N-(2-propenyl)propanamide to obtain the title compound.

reactant | N-(2,6-dichlorophenyl)-N'-[(3,4-dimethoxyphenyl)methyl]-1,2-ethanediamine | ClC1=C(C(=CC=C1)Cl)NCCNCC1=CC(=C(C=C1)OC)OC | C17H20Cl2N2O2
reactant | 2,3-dibromo-N-(2-propenyl)propanamide | BrC(C(=O)NCC=C)CBr | C6H9Br2NO
product | 4-(2,6-Dichlorophenyl)-1-[(3,4-dimethoxyphenyl)methyl]-N-(2-propenyl)-2-piperazinecarboxamide | ClC1=C(C(=CC=C1)Cl)N1CC(N(CC1)CC1=CC(=C(C=C1)OC)OC)C(=O)NCC=C | C23H27Cl2N3O3
